US05059597
a) trans-3-Amino-1-benzyl-4-hydroxy-pyrrolidine
8.9 g (50 mmol) of 3-benzyl-6-oxa-3-azabicyclo[3.1.0]hexane are heated in 75 ml of ammonia solution (25% strength) at 120° C. in an autoclave for 8 hours. The solution is concentrated and the residue is distilled.

reactant | 3-benzyl-6-oxa-3-azabicyclo[3.1.0]hexane | 50 mmol, 8.9 g | C(C1=CC=CC=C1)N1CC2OC2C1 | C11H13NO
reactant | ammonia | 75 ml | N | H3N
product | trans-3-Amino-1-benzyl-4-hydroxy-pyrrolidine | N[C@@H]1CN(C[C@H]1O)CC1=CC=CC=C1 | C11H16N2O
